US07727988B2
2,4-Dioxo-1-(4-oxo-butyl)-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (Prep55)
1-(3,3-Diethoxy-butyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (Prep 54, 200 mg, 0.71 mmol) was dissolved in dioxane (8 mL) and 1N HClaq (1 mL) was added. The mixture was warmed at 60° C. for 20 minutes. The solvents were evaporated, the residue was submitted to lyophilization, to give 150 mg of the title compound that was used in the next step without further purification (quantitative yield).

reactant | 1-(3,3-Diethoxy-butyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | 0.71 mmol, 200 mg | C(C)OC(CCN1C(NC(C(=C1)C#N)=O)=O)(C)OCC | C13H19N3O4
reactant | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 2,4-Dioxo-1-(4-oxo-butyl)-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | 150 mg, quantitative yield | O=C1N(C=C(C(N1)=O)C#N)CCCC=O | C9H9N3O3
